US05165971
Preparation of a solution of tetrakis [1-(3-sulfopropyl)pyridine] palladium (II) chloride.
250 mg of palladium in the form of PdCl2 are reacted under stirring with 1-(3-sulfopropyl)pyridine, in a molar ratio from 1 to 4, at 50° for 20 minutes, in 500 ml of water and 500 ml of ethyl alcohol.

reactant | palladium | 250 mg | [Pd] | Pd
reactant | PdCl2 | Cl[Pd]Cl
reactant | 1-(3-sulfopropyl)pyridine | S(=O)(=O)(O)CCCN1CC=CC=C1 | C8H13NO3S
solvent | water | 500 ml | O | H2O
solvent | ethyl alcohol | 500 ml | C(C)O | C2H6O
product | tetrakis [1-(3-sulfopropyl)pyridine] palladium (II) chloride | [Pd](Cl)Cl.S(=O)(=O)(O)CCCN1CC=CC=C1.S(=O)(=O)(O)CCCN1CC=CC=C1.S(=O)(=O)(O)CCCN1CC=CC=C1.S(=O)(=O)(O)CCCN1CC=CC=C1 | InChI=1S/4C8H13NO3S.2ClH.Pd/c4*10-13(11,12)8-4-7-9-5-2-1-3-6-9;;;/h4*1-3,5H,4,6-8H2,(H,10,11,12);2*1H;/q;;;;;;+2/p-2
